US05760259
6-(p-Pentylphenyl)hexanoic acid
This compound was synthesized from 6-(p-pentylphenyl)-5-hexenoic acid (1.30 g, 5 mmol) by hydrogenation reaction using Pd/C (130 mg). Crystallization (petroleum ether) afforded the product (1.13 g, 87%) as white crystals (mp 29°-30° C.), IR: 3400-2500, 1730 cm-1 ; 1H-NMR: 0.89 (t, 3H), 1.32 (m, 6H), 1.60 (m, 6H), 2.35 (t, 2H), 2.58 (m, 4H), 7.07 (s, 1H), 10.30 (bs, 1H). Anal. Calcd. for C17H26O2 : C, 77.82, H, 9.99%; Found: C, 77.56, H, 9.90%.

reactant | 6-(p-pentylphenyl)-5-hexenoic acid | 5 mmol, 1.30 g | C(CCCC)C1=CC=C(C=C1)C=CCCCC(=O)O | C17H24O2
catalyst | Pd/C | 130 mg | [Pd] | Pd
product | 6-(p-Pentylphenyl)hexanoic acid | 1.13 g, 87% | C(CCCC)C1=CC=C(C=C1)CCCCCC(=O)O | C17H26O2
